US06794529B2
281 mgs (1.10 mmol) of bis(pinacolato)diboron under anaerobic conditions in dry methanol (3 ml) in a reaction tube was treated with 2 ml of a 1 M LiOMe solution in methanol. After stirring for 20 min., 25 mg of PdCl2(dppf).CH2Cl2 was added and the solution darkened rapidly. After 148 mg (1.0 mmol) of 2-bromo-3-methylbut-2-ene was added the reaction solution was warmed to 30° C. and stirred. On gc analysis after 1 hr reaction time, it was found that the required alkenylboronic acid ester had formed in appreciable quantity and at 4 h reaction time was by far the dominant peak in the gc trace. After 24 h reaction time the reaction was essentially completed; the ratio of the peak areas for the required alkenylboronic acid ester: 2-bromo-3-methylbut-2-ene: bis(pinacolato)diboron was determined by gc analysis of the reaction solution, uncorrected for fid response factors, to be 79:3:9. A small amount (3%) of the coupled product 2,3,4,5-tetramethyl-hexa-2,4-diene was formed, all essentially in the first 4 h reaction period.

reactant | bis(pinacolato)diboron | 1.10 mmol, 281 mgs | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | LiOMe | 1 M | O([Li])C
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | 2-bromo-3-methylbut-2-ene | 1.0 mmol, 148 mg | BrC(C)=C(C)C | C5H9Br
solvent | methanol | 3 ml | CO | CH4O
catalyst | PdCl2(dppf) | 25 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2,3,4,5-tetramethyl-hexa-2,4-diene | CC(C)=C(C(=C(C)C)C)C | C10H18
